US04902338
To a stirred solution of 20.0 g (0.137 mole) of 4-chloro-2-fluoroaniline in 300 mL of toluene was slowly added 16.2 g (0.082 mole) of trichloromethyl chloroformate. The reaction mixture was heated at reflux for approximately 18 hours. The mixture was cooled, and the solvent was removed by distillation under reduced pressure leaving an oil. The oil was dissolved in 100 mL of chloroform, and 20.6 g (0.15 mole) of glycine ethyl ester hydrochloride was added. Triethylamine (15.2 g, 0.15 mole) was added slowly, and the resultant mixture was stirred at room temperature for two hours. The reaction mixture was diluted with 300 mL of n-heptane and 100 mL of water, resulting in the formation of a precipitate. The precipitate was collected by filtration to give 36.4 g of ethyl 4-chloro-2-fluorophenylaminocarbonylaminoacetate, m.p. 125°-129° C.

reactant | 4-chloro-2-fluoroaniline | 0.137 mole, 20.0 g | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | trichloromethyl chloroformate | 0.082 mole, 16.2 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | glycine ethyl ester hydrochloride | 0.15 mole, 20.6 g | Cl.C(C)OC(CN)=O
reactant | Triethylamine | 0.15 mole, 15.2 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | n-heptane | 300 mL | CCCCCCC | C7H16
solvent | water | 100 mL | O | H2O
product | ethyl 4-chloro-2-fluorophenylaminocarbonylaminoacetate | 36.4 g | ClC1=CC=C(C=C1)NC(=O)NC(C(=O)OCC)F | C11H12ClFN2O3
